US06645990B2
1-(2-Bromothiazol-4-yl)-3-(6-piperidin-1-ylmethyl-pyridin-2-yl)urea
To a stirred suspension of 2-bromothiazole-4-carboxylic acid (5.13 g, 2 mmol) in anhydrous CH3CN (40 ml) at RT, under N2, TEA (3.80 ml, 27 mmol) and (PhO)2PON3 (5.90 ml, 27 mmol) were added. The resulting solution was heated to 85° C. Upon reaching 85° C., a solution of 6-(piperidylmethyl)-2-pyridylamine (4.74 g, 25 mmol) in anhydrous CH3CN (60 ml) was added. The reaction was maintained at this temperature for 2.25 h. After cooling to RT the mixture was diluted with CH2Cl2 (50 ml) then washed with a saturated solution of NH4Cl(aq) (40 ml). The organic layer was separated, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (3:1/2:1/1:1, EtOAc:acetone) to yield the title compound as a pale yellow solid. MS m/z: 396 (M+H), 398 (M+3). Calc'd for C15H18BrN50S: 395.04.

reactant | 2-bromothiazole-4-carboxylic acid | 2 mmol, 5.13 g | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
reactant | (PhO)2PON3 | 27 mmol, 5.90 ml | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)N=[N+]=[N-] | C12H10N3O3P
reactant | 6-(piperidylmethyl)-2-pyridylamine | 25 mmol, 4.74 g | N1(CCCCC1)CC1=CC=CC(=N1)N | C11H17N3
reactant | CH3CN | 40 ml | CC#N | C2H3N
reactant | CH3CN | 60 ml | CC#N | C2H3N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-Bromothiazol-4-yl)-3-(6-piperidin-1-ylmethyl-pyridin-2-yl)urea | BrC=1SC=C(N1)NC(=O)NC1=NC(=CC=C1)CN1CCCCC1 | C15H18BrN5OS
